US05164385
Step 1 1-(3,4-Dihydro-2-naphthalenyl)azetidine
A solution of azetidine (6.8 g, 0.12 mol), 3,4-dihydro-2(1 H)-naphthalenone (14.6 g, 0.10 mol), and p-toluenesulphonic acid (1.5 g) in dichloromethane (200 ml) was heated under reflux for 3 h in an apparatus fitted for the continuous removal of water, cooled to room temperature, washed with dilute aqueous sodium carbonate, dried (MgSO4), and evaporated in vacuo to give the product as an oil.

reactant | azetidine | 0.12 mol, 6.8 g | N1CCC1 | C3H7N
reactant | 3,4-dihydro-2(1 H)-naphthalenone | 0.10 mol, 14.6 g | C1C(CCC2=CC=CC=C12)=O | C10H10O
reactant | p-toluenesulphonic acid | 1.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 1-(3,4-Dihydro-2-naphthalenyl)azetidine | C1=C(CCC2=CC=CC=C12)N1CCC1 | C13H15N
